US06719520B2
3-(3-Bromo-4-methylphenylamino)-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione
A mixture of 3-bromo-4-methylaniline (0.220 g, 1.18 mmol), 3-chloro-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione (0.100 g, 0.40 mmol) and 1-methyl-2-pyrrolidinone (1.0 mL) was heated in an oil bath at 200° C., for 51 minutes. The mixture was diluted with aqueous hydrochloric acid (5 mL) and extracted with ethyl acetate (5 mL). The combined organic solutions were evaporated and the residue chromatographed on silica gel using dichloromethane as eluent to afford the title compound, a solid, following trituration with dichloromethane-hexane (90:10 v/v).

reactant | 3-bromo-4-methylaniline | 1.18 mmol, 0.220 g | BrC=1C=C(N)C=CC1C | C7H8BrN
reactant | 3-chloro-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione | 0.40 mmol, 0.100 g | ClC=1C(NC(C1C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C10H5ClN2O4
reactant | 1-methyl-2-pyrrolidinone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | hydrochloric acid | 5 mL | Cl | ClH
product | 3-(3-Bromo-4-methylphenylamino)-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione | BrC=1C=C(C=CC1C)NC=1C(NC(C1C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C17H12BrN3O4
